US07713973B2
N-isopropyl-3-(5-(5-methyl-1H-pyrazol-3-ylamino)-2-(trifluoromethyl)imidazo[1,2-c]pyrimidin-7-yl)benzamide
Title compound was synthesized from 7-chloro-N-(5-methyl-1H-pyrazol-3-yl)-2-(trifluoromethyl)imidazo[1,2-c]pyrimidin-5-amine and 3-(isopropylcarbamoyl)phenyl boronic acid using the procedure described in Example 278. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.21 (d, J=6.57 Hz, 6H) 2.32 (s, 3H) 4.15 (td, J=13.45, 6.69 Hz, 2H) 6.74 (s, 1H) 7.60 (t, J=7.71 Hz, 1H) 7.78 (s, 1H) 7.90 (d, J=7.83 Hz, 1H) 8.27 (d, J=8.08 Hz, 1H) 8.38 (d, J=7.58 Hz, 1H) 8.57 (s, 1H) 9.03 (s, 1H) 10.55 (s, 1H); ESI-MS: m/z calc'd for C21H20F3N7O 443.43; found 444.3 (M+H)+.

reactant | 7-chloro-N-(5-methyl-1H-pyrazol-3-yl)-2-(trifluoromethyl)imidazo[1,2-c]pyrimidin-5-amine | ClC1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=C(N2)C(F)(F)F | C11H8ClF3N6
reactant | 3-(isopropylcarbamoyl)phenyl boronic acid | C(C)(C)NC(=O)C=1C=C(C=CC1)B(O)O | C10H14BNO3
product | N-isopropyl-3-(5-(5-methyl-1H-pyrazol-3-ylamino)-2-(trifluoromethyl)imidazo[1,2-c]pyrimidin-7-yl)benzamide | C(C)(C)NC(C1=CC(=CC=C1)C1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=C(N2)C(F)(F)F)=O | C21H20F3N7O
